US05750531
Synthesis of 2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 2-methylaniline(0.30 ml, 2.7 mmol) was added to a mixture solution of 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.75 g, 2.5 mmol) and dimethylformamide(5 ml), 0.50 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methylaniline | 2.7 mmol, 0.30 ml | CC1=C(N)C=CC=C1 | C7H9N
reactant | 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 2.5 mmol, 0.75 g | C1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C17H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(2-methylphenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.50 g, Yield: 49% | Cl.CC1=C(C=CC=C1)NC1=NC=2CCCCC2C(=N1)N1CC2=CC=CC=C2CC1 | InChI=1S/C24H26N4.ClH/c1-17-8-2-6-12-21(17)25-24-26-22-13-7-5-11-20(22)23(27-24)28-15-14-18-9-3-4-10-19(18)16-28;/h2-4,6,8-10,12H,5,7,11,13-16H2,1H3,(H,25,26,27);1H
